US07816557B2
3-{4-[1-(4′-Chloro-biphenyl-4-yloxy)-heptyl]-benzoylamino}-propionic acid, Isomer 1
This compound is made in a substantially similar manner to Example 117 using isomer 1 of 3-{4-[1-(4-bromo-phenoxy)-heptyl]-benzoylamino}-propionic acid methyl ester and 4-chlorophenylboronic acid as starting materials in step D. MS (ES): 492.3 [M−H]−.

reactant | 3-{4-[1-(4-bromo-phenoxy)-heptyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)Br)=O)=O | C24H30BrNO4
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 3-{4-[1-(4′-Chloro-biphenyl-4-yloxy)-heptyl]-benzoylamino}-propionic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OC(CCCCCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C29H32ClNO4
